US06767907B2
1-(6-Dimethylaminocarbonylaminoindan-1-ylmethyl)-4-(4-fluorophenyl)piperidine, 6a
1-(6-Aminoindan-1-ylmethyl)-4-(4-fluorophenyl)piperidine, 2a (3 g) was dissolved in THF (50 ml) and triethylamine (2 g) was added. At 5° C. dimethylcarbamoylchloride (1 g) in THF (15 ml) was added dropwise. After completed addition the mixture was refluxed for 1.5 hours. THF was evaporated. Water was added and extraction with dichloromethane (2×50 ml) and work-up as above of the combined organic phases yielded crude title product, which was purified by column chromatography on silica gel (eluted with 4% triethylamine in a 1:1 mixture of ethyl acetate and heptane). The pure title compound 6a crystallized from diethyl ether. Yield : 1,4 g, mp: 141-144° C. 1H NMR (CDCl3): δ 1.65-2.55 (m, 10H); 2.70 (dd, 1H); 2.70-2.95 (m, 2H); 2.95-3.05 (m, 1H); 3.05 (s, 6H); 3.15 (broad d, 1H); 3.35 (qui, 1H); 6.25 (s, 1H); 6.95-7.25 (m, 6H); 7.45 (s, 1H)

reactant | 1-(6-Aminoindan-1-ylmethyl)-4-(4-fluorophenyl)piperidine | NC1=CC=C2CCC(C2=C1)CN1CCC(CC1)C1=CC=C(C=C1)F | C21H25FN2
reactant | triethylamine | 2 g | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoylchloride | 1 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-(6-Dimethylaminocarbonylaminoindan-1-ylmethyl)-4-(4-fluorophenyl)piperidine | CN(C(=O)NC1=CC=C2CCC(C2=C1)CN1CCC(CC1)C1=CC=C(C=C1)F)C | C24H30FN3O
